US04113591
(a) t-Butyl 3-Methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate
A solution of ethylene oxide (12 ml) in dry methylene chloride (30 ml) was added to a solution of t-butyl 7β-amino-3-methylceph-3-em-4-carboxylate (52 g, 0.193 mole) in dry methylene chloride (200 ml) cooled in an ice-water bath. A solution of redistilled phenoxyacetyl chloride (33.2 g, 0.194 mole) in dry methylene chloride (25 ml) was added over 2 minutes with stirring. The mixture was stirred for 2 hours, washed with 3% sodium hydrogen carbonate solution (2 × 70 ml), and water, N-hydrochloric acid and brine (70 ml of each), dried and evaporated to a foam. This foam was redissolved in methylene chloride (200 ml) and part (3 ml) of the solution was reevaporated to a white foam (1.13 g), [α]D + 107°, λmax 268.5 nm (ε 7,850) 274.5 nm (ε 7,000), inflexion at 264 nm (ε 7,500), νmax (CHBr3) 3417 (NH), 1786 (azetidin-2-one), 1718 (CO2R) and 1697 and 1530 cm-1 (CONH), τ 0.99 (1H,d, J 8.5 Hz; NH), 2.5 to 3.2 (5H,m; C6H5OCH2), 4.34 (1H,dd, J 8.5, 5 Hz; C7 -H), 4.91 1H,d, J 5 Hz; C6 -H), 5.38 (2H,s; C6H5OCH2), 6.38, 6.66 (2H, AB-q, J 18 Hz; C2 -H2), 8.01 (3H,s; C3 -CH3), 8.52 (9H,s; CO2C(CH3)3) (Found: C, 58.3, 58.4; H, 5.95, 6.0; N, 6.7, 7.0; S, 7.7 C20H24N2O5S (404.5) requires C, 59.4; H, 6.0; N, 6.9; S, 7.7%).

reactant | ethylene oxide | 12 ml | C1CO1 | C2H4O
reactant | t-butyl 7β-amino-3-methylceph-3-em-4-carboxylate | 0.193 mole, 52 g | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C)(C)C)C1=O | C12H18N2O3S
reactant | phenoxyacetyl chloride | 0.194 mole, 33.2 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | t-Butyl 3-Methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate | CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C20H24N2O5S
